US06642223B2
To a solution of 7-chloro-5-[(4-methyl-1-piperazinyl)carbonylmethyl]-1-(2-methoxy-2-aminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (2.0 g) in pyridine (30 ml) is added dropwise trifluoroacetic anhydride (1.14 ml) under ice-cooling. To the reaction solution is added a saturated aqueous sodium hydrogen carbonate solution, and the mixture is extracted with ethyl acetate. The extract is washed with water, dried, and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; dichloromethane:methanol=50:1→30:1), and crystallized from acetone/n-hexane to give 7-chloro-5-[(4-methyl-1-piperazinyl)carbonylmethyl]-1-(2-methoxy-4-trifluoroacetylaminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (1.86 g) as white powder.

reactant | 7-chloro-5-[(4-methyl-1-piperazinyl)carbonylmethyl]-1-(2-methoxy-2-aminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 2.0 g | ClC=1C=CC2=C(C(CCCN2C(C2C(C=CC=C2)(N)OC)=O)CC(=O)N2CCN(CC2)C)C1 | C25H33ClN4O3
reactant | trifluoroacetic anhydride | 1.14 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 7-chloro-5-[(4-methyl-1-piperazinyl)carbonylmethyl]-1-(2-methoxy-4-trifluoroacetylaminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 1.86 g | ClC=1C=CC2=C(C(CCCN2C(C2=C(C=C(C=C2)NC(C(F)(F)F)=O)OC)=O)CC(=O)N2CCN(CC2)C)C1 | C27H30ClF3N4O4
